US06169107A
In a solvent mixture of 50 ml of tetrahydrofuran and 50 ml of methanol was dissolved 2.31 g (7.82 mmol) of methyl 7-benzyloxy-1-methyl-2-indolecarboxylate. After 0.5 g of 10% palladium/carbon was added to the solution, catalytic hydrogenation was performed at ambient temperature under normal pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 1.63 g (>99%) of methyl 7-hydroxy-1-methyl-2-indolecarboxylate.

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | methyl 7-benzyloxy-1-methyl-2-indolecarboxylate | 7.82 mmol, 2.31 g | C(C1=CC=CC=C1)OC=1C=CC=C2C=C(N(C12)C)C(=O)OC | C18H17NO3
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | methyl 7-hydroxy-1-methyl-2-indolecarboxylate | 1.63 g, >99% | OC=1C=CC=C2C=C(N(C12)C)C(=O)OC | C11H11NO3
